US07176310B1
L. 4-(1,1-Dioxotetrahydrothiophen-3-ylamino)-2-methylsulfanylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide
To a suspension of 3-amino-1,1-dioxotetrahydrothiophene (345 mg, 2.01 mmol) in methanol (5 mL) was added DIPEA (350 μL) followed by 4-chloro-2-methylsulfanylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide (200 mg, 0.67 mmol). The mixture was allowed to stir for 16 h. The resulting mixture was poured into ice-water and the resulting solids were collected by filtration. The solids were washed with ethyl acetate and hexanes and were dried. This afforded 147 mg (0.37 mmol, 55% yield) of the titled product as a solid. 1H NMR (300 MHz, DMSO-d6) δ 10.25 (s, 1H), 8.78 (d, 1H), 8.65 (s, 1H), 7.65 (m, 2H), 7.18 (m, 2H), 4.87 (m, 1H), 3.52 (m, 1H), 3.35–3.04 (m, 3H), 2.50, M, 1H), 2.22 (m, 1H); MS (EI) m/z 395.05 (M−H)−.

reactant | 3-amino-1,1-dioxotetrahydrothiophene | 2.01 mmol, 345 mg | NC1CS(CC1)(=O)=O | C4H9NO2S
reactant | DIPEA | 350 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-2-methylsulfanylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 0.67 mmol, 200 mg | FC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)SC)Cl | C12H9ClFN3OS
solvent | methanol | 5 mL | CO | CH4O
product | 4-(1,1-Dioxotetrahydrothiophen-3-ylamino)-2-methylsulfanylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 0.37 mmol, 147 mg, 55% yield | FC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)SC)NC1CS(CC1)(=O)=O | C16H17FN4O3S2
